US07355069B2
a) N-(2,4-difluorobenzyl)-N-propylamine
2,4-Difluorbenzaldehyde (1.003 g, 7.055 mmol) was dissolved in methanol (5 ml). Trimethyl orthoformate (5 ml) was added. Propylamine (401 mg, 6.784 mmol) was then added and followed by acetic acid (0.2 ml). After 1 hour, DCM (5 ml) was added and followed by borohydride polymer-supported (2.5 mmol/g, 5.42 g, 13.55 mmol). The mixture was shaken at room temperature for 4 days and then filtered. The filtrate was evaporated. The residue was dissolved in acetonitrile, then divided into two portions and loaded on two columns (ISOLUTE®PRS, 10 g/70 ml, wetted with acetonitrile). It was eluted with acetonitrile, then methanol and then methanol (NH3 sat.). The product fractions were combined and evaporated. Oil product (892 mg) was obtained, yield 71%.

reactant | 2,4-Difluorbenzaldehyde | 7.055 mmol, 1.003 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | Trimethyl orthoformate | 5 ml | C(OC)(OC)OC | C4H10O3
reactant | Propylamine | 6.784 mmol, 401 mg | C(CC)N | C3H9N
reactant | borohydride | 13.55 mmol, 5.42 g | [BH4-]
solvent | methanol | 5 ml | CO | CH4O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | N-(2,4-difluorobenzyl)-N-propylamine | 892 mg, yield 71% | FC1=C(CNCCC)C=CC(=C1)F | C10H13F2N
